US08115006B2
(2) Preparation of 3-bromo-N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide
0.35 g of S-ethyl 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carbothioate and 0.24 g of 2-amino-5-chloro-N-(1-cyclopropylethyl)benzamide were dissolved in 5 ml of dimethyl sulfoxide, and 0.85 g of anhydrous sodium sulfate was added, followed by stirring for 5 minutes. 0.14 g of potassium tert-butoxide was added at room temperature, followed by stirring for 1.5 hours. The reaction liquid was added to water, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=1/0 to 1/1) to obtain 0.24 g of the desired product.

reactant | S-ethyl 3-bromo-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carbothioate | 0.35 g | BrC1=NN(C(=C1)C(SCC)=O)C1=NC=CC=C1Cl | C11H9BrClN3OS
reactant | 2-amino-5-chloro-N-(1-cyclopropylethyl)benzamide | 0.24 g | NC1=C(C(=O)NC(C)C2CC2)C=C(C=C1)Cl | C12H15ClN2O
reactant | sodium sulfate | 0.85 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | potassium tert-butoxide | 0.14 g | CC(C)([O-])C.[K+]
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-bromo-N-(4-chloro-2-(1-cyclopropylethylcarbamoyl)phenyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxamide | 0.24 g | BrC1=NN(C(=C1)C(=O)NC1=C(C=C(C=C1)Cl)C(NC(C)C1CC1)=O)C1=NC=CC=C1Cl | C21H18BrCl2N5O2
